US04132847
To a solution, cooled under nitrogen to -78°, of 0.715 g (1.45 mmol) of 2-(3-oxo-trans-1-octenyl)-3-(5-carboethoxypentyloxy)-6-(trimethylacetoxymethyl)-4-pyrone in 10 ml of tetrahydrofuran was added dropwise keeping the internal temperature at -70° to -75°, 1.7 ml (1.7 mmole) of lithium triethylborohydride. After being stirred for an additional 30 min the cold reaction was quenched by the addition of 5 drops of 40% aqueous acetic acid and then partially concentrated under reduced pressure. The residue was dissolved in methylene chloride and washed successively with aqueous sodium bicarbonate and brine solution. The organic solution was dried over magnesium sulfate and evaporated to give an oil. Chromatographic purification on silica gel eluting with ether furnished 0.290 g (40%) of 2-[(3RS)-3-hydroxy-trans-1-octenyl]-3-(5-carboethoxypentyloxy)-6-(trimethylacetoxymethyl)-4-pyrone. NMR (CDCl3): δ0.90 (3H, t, J = 4.5 Hz), 2.31 (2H, t, J = 6 Hz), 4.88 (2H, s).

reactant | 2-(3-oxo-trans-1-octenyl)-3-(5-carboethoxypentyloxy)-6-(trimethylacetoxymethyl)-4-pyrone | 1.45 mmol, 0.715 g | O=C(/C=C/C=1OC(=CC(C1OCCCCCC(=O)OCC)=O)COC(C(C)(C)C)=O)CCCCC | C27H40O8
reactant | lithium triethylborohydride | 1.7 mmole, 1.7 ml | C(C)[BH-](CC)CC.[Li+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[(3RS)-3-hydroxy-trans-1-octenyl]-3-(5-carboethoxypentyloxy)-6-(trimethylacetoxymethyl)-4-pyrone | 0.290 g, 40% | OC(/C=C/C=1OC(=CC(C1OCCCCCC(=O)OCC)=O)COC(C(C)(C)C)=O)CCCCC | C27H42O8
